US05047411
A mixture of 2-[2-(4-acetamido-3-hydroxyphenyl)-ethyl]-3,7-dimethylimidazo[1,2-a]pyridine (2.5 g) and phosphorus oxychloride (1.4 ml) in sulfolane (25 ml) was stirred for 1 hour at 100° C. The reaction mixture was added to a mixture of water and ethyl acetate and the separated aqueous layer was adjusted to pH 8 with potassium carbonate. The mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine and dried over magnesium sulfate. Evaporation of a solvent gave a residue, which was purified by a column chromatography on silica gel eluting with a mixture of chloroform and methanol (39:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was crystallized from a mixture of ethyl acetate and diethyl ether to give 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-methylbenzoxazole (0.67 g).

reactant | 2-[2-(4-acetamido-3-hydroxyphenyl)-ethyl]-3,7-dimethylimidazo[1,2-a]pyridine | 2.5 g | C(C)(=O)NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1C)O | C19H21N3O2
reactant | phosphorus oxychloride | 1.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | sulfolane | 25 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-methylbenzoxazole | 0.67 g | CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC1=C(N=C(O1)C)C=C2 | C19H19N3O
